US08835426B2
To a solution of (1-adamantylmethyl)amine (15 g, 52 mmol) in anhydrous CH2Cl2 (50 mL) was added tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)aziridine-1-carboxylate (13 g, 78.3 mmol). The mixture was stirred for 10 min, the solvent was removed in vacuo and the residue was stirred at 40° C. for 5 h. The mixture was diluted with EtOAc (500 mL) and washed with water (100 mL),1N aq HCl (50 mL), satd aq NaHCO3 (50 ml) and brine (50 mL), and dried over MgSO4. The solution was concentrated to give a residue, which was purified by chromatography on silica gel to give (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-((1-adamantylmethyl)amino)propan-2-ylcarbamate (10 g, 24%). 1H NMR: (CDCl3, 400 MHz): δ=0.041 (s, 6H), 0.882 (s, 9H), 1.44 (s, 9H), 1.49 (s, 6H), 1.65 (m, 6H), 1.94 (s, 3H), 2.23 (s, 2H), 2.62-2.81 (m, 2H), 3.67 (m, 3H), 5.30 (s, 1H).

reactant | (1-adamantylmethyl)amine | 52 mmol, 15 g | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
reactant | tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)aziridine-1-carboxylate | 78.3 mmol, 13 g | [Si](C)(C)(C(C)(C)C)OCC1N(C1)C(=O)OC(C)(C)C | C14H29NO3Si
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-((1-adamantylmethyl)amino)propan-2-ylcarbamate | 10 g, 24% | [Si](C)(C)(C(C)(C)C)OC[C@H](CNCC12CC3CC(CC(C1)C3)C2)NC(OC(C)(C)C)=O | C25H48N2O3Si
